US05478937
Ethyl 2-amino-5-cyano-6-methyl-4-(3-phenyl-1,7-naphthyridin-5-yl)-1,4-dihydropyridine-3-carboxylate
2 g (8.5 mmol) of 3-phenyl-1,7-naphthyridine-5-carboxaldehyde are suspended in 20 ml of ethanol and stirred with 0.7 ml (8.5 mmol) of 5-methylisoxazole. A solution of 196 mg of sodium in 14 ml of ethanol is added and the mixture is stirred for 2 hours at 50° C. 1.42 g of ethyl amidinoacetate hydrochloride and 0.51 ml (8.5 mmol) of acetic acid are added and the mixture is boiled for 16 hours. After cooling, 10 g of silica gel are added and the mixture is concentrated in vacuo. The residue is chromatographed on a silica gel column using toluene/ethyl acetate mixtures. After concentration of the pure fractions, the product is crystallized by trituration with ether. 2 g of crystals are obtained.

reactant | 3-phenyl-1,7-naphthyridine-5-carboxaldehyde | 8.5 mmol, 2 g | C1(=CC=CC=C1)C=1C=NC=2C=NC=C(C2C1)C=O | C15H10N2O
reactant | 5-methylisoxazole | 8.5 mmol, 0.7 ml | CC1=CC=NO1 | C4H5NO
reactant | sodium | 196 mg | [Na] | Na
reactant | ethyl amidinoacetate hydrochloride | 1.42 g | Cl.C(N)(=N)CC(=O)OCC
reactant | acetic acid | 8.5 mmol, 0.51 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | Ethyl 2-amino-5-cyano-6-methyl-4-(3-phenyl-1,7-naphthyridin-5-yl)-1,4-dihydropyridine-3-carboxylate | 2 g | NC=1NC(=C(C(C1C(=O)OCC)C1=C2C=C(C=NC2=CN=C1)C1=CC=CC=C1)C#N)C | C24H21N5O2
